US05773663
2,6-Dichloro-2',3',4'-trimethoxy-6'-methyl-benzophenone
A mixture of 3,4,5-trimethoxytoluene (9.11 g; 50 mmol), octane (25 ml) and iron(III)chloride (50 mg) is stirred at 105° C., and percolating nitrogene 2,6-dichlorobenzoylchloride (12.04 g; 57.5 mmol) is added dropwise within 15 minutes. The mixture is kept at 105° C. and stirred for another 15 minutes. After cooling to 50° C. ethylacetate (50 ml) is added, the mixture shaken twice with 2N hydrochloric acid, once with water and dried. The ethylacetate is evaporated (70° C.) and the liquid cooled with stirring. At 50° C. petrolether (50 ml) is added. The white crystalls formed are sucked off, washed with petrolether and dried. Yield 12.55 g (70.7%), mp. 92° C.

reactant | 3,4,5-trimethoxytoluene | 50 mmol, 9.11 g | COC=1C=C(C=C(C1OC)OC)C | C10H14O3
reactant | octane | 25 ml | CCCCCCCC | C8H18
reactant | 2,6-dichlorobenzoylchloride | 57.5 mmol, 12.04 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | hydrochloric acid | 2N | Cl | ClH
catalyst | iron(III)chloride | 50 mg | [Fe](Cl)(Cl)Cl
solvent | water | O | H2O
solvent | ethylacetate | 50 ml | C(C)OC(C)=O | C4H8O2
product | 2,6-Dichloro-2',3',4'-trimethoxy-6'-methyl-benzophenone | ClC1=C(C(=O)C2=C(C(=C(C=C2C)OC)OC)OC)C(=CC=C1)Cl | C17H16Cl2O4
